*Title: T1 Circuit

*  Netlist

.options savecurrents
 
*The circuit components are defined below
*An auxiliary voltage source vab and an auxiliary node na were included for reasons explained in the report
 
Vaa   0  n3  5.02924600001

Vab   n3  na   0

Idd   n7  n5   1.03087754949m 

R1   0  n1   1.04362094375k

R2   n2  n1   2.01060713289k

R3   n1  n4   3.1012701442k

R4   n4  n3   4.18822801798k 

R5   n5  n4   3.09414786857k 

R6   na  n6   2.02739936235k

R7   n6  n7   1.0022809037k 

Hc   n4  n7   Vab  8.29575903566k

Gb   n5  n2   n1  n4  7.2492497599m 


*It will now simulate the circuit

.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

*The lines below print a table with all the values

echo  "op_TAB"
print i(vaa)
print i(vab)
print i(hc)
print all

echo  "op_END"

quit
.endc
.end

